US07592373B2
1.40.a. Propynoic acid-(4′-chlorobiphenyl-4-yl)amide
36 mL of a 1 molar DCC solution in dichloromethane is added dropwise at −10° C. to a solution of 4.9 g (70 mmol) of propynoic acid in 120 mL of dichloromethane and the mixture is stirred for 30 minutes. Then 7 g (34.37 mmol) 4′-chlorobiphenyl-4-ylamine, dissolved in dichloromethane, is slowly added dropwise and the mixture is stirred for 2 hours at −8° C. The reaction mixture is then filtered through CELITE®E filter aid, washed again with methanol, and the filtrate is evaporated down. The purification is carried out by column chromatography on silica gel (eluant: cyclohexane/ethyl acetate (6:1 to 2:1)). Yield: 7.6 g (95% of theory); C15H10ClN0 (M=255.70); calc.: molecular ion peak (M+H)+: 256/8 (Cl); found: molecular ion peak (M+H)+: 256/8 (Cl); Rf value: 0.2 (silica gel, cyclohexane/ethyl acetate (1:1)).

reactant | DCC | 1 molar | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | propynoic acid | 70 mmol, 4.9 g | C(C#C)(=O)O | C3H2O2
reactant | 4′-chlorobiphenyl-4-ylamine | 34.37 mmol, 7 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)N | C12H10ClN
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | Propynoic acid-(4′-chlorobiphenyl-4-yl)amide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(C#C)=O | C15H10ClNO
